Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3],0.315468833951
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],1.16186977336
[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-0.427542184451
[H:1][C:2][O:3][C:4][O:5][H:6]>>[C:4][O:5][H:6].[H:1][C:2]=[O:3],0.63589467599
[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.66075836082
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:3](=[C:4]([H:5])[H:6])([H:7])[H:10].[O:1][C:2]#[C:8][C:11]([H:9])([H:12])[H:13],1.16590182077
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.7983349648900002
[H:1][C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.86653908992
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:12]([H:13])([H:14])[H:15],4.95220097686
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-3.1600231201599995
[C:5]([H:6])([H:7])[H:8].[H:1][C:2][C:3](=[O:4])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.39184796727
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],4.22073502193
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[O:2],-1.25094527408
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-6.394677711669999
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.21060759663
[C:6]=[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-2.5880473583000003
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7],5.31824552641
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],5.24591485705
[O:1]=[C:2]=[C:3]1[O:4][C:5]1=[C:6][H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],-0.3128282331199999
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][O:2][C:3]#[C:4]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:5],2.35447681229
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9][H:10],5.98286173726
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],4.829630561459999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3],5.31064237787
[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1].[O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],3.69829459899
[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-2.1606511528
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.94977429061
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],1.1117782475700002
[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])[H:11],4.21797710325
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8],1.91607011445
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.14234732639
